US07851473B2
N-[3-(Dimethylamino)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 3-dimethylaminobenzoic acid (165 mg, 1.00 mmol) and triethylamine (0.293 ml, 2.10 mmol) in toluene (10 ml) was added diphenylphosphoryl azide (0.226 ml, 1.05 mmol) at room temperature, and the mixture was stirred at room temperature for 30 minutes, followed by elevating the temperature to 90° C. and stirring for 1 hour and half. The resulting mixture was cooled to room temperature, 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (172 mg, 0.700 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC Column eluted with 10% to 100% Liquid A; Liquid A: a 0.1% solution of trifluoroacetic acid in acetonitrile; Liquid B: an aqueous 0.1% trifluoroacetic acid solution) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 140 mg (42.1%) of the desired product as a solid.

reactant | 3-dimethylaminobenzoic acid | 1.00 mmol, 165 mg | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | triethylamine | 2.10 mmol, 0.293 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.05 mmol, 0.226 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.700 mmol, 172 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | N-[3-(Dimethylamino)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 140 mg, 42.1% | CN(C=1C=C(C=CC1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1)C | C21H24N6OS
